US04503055
A mixture of 10 parts of 1-(2-chloroacetyl)-4-(4-hydroxyphenyl)piperazine, 6.9 parts of morpholine and 40 parts of methanol is stirred and heated for 2 hours at 50° C. The reaction mixture is evaporated and the residue is stirred with water. The precipitated product is filtered off, dried on the filter and crystallized from 2-propanol, yielding 5.5 parts of 1-(4-hydroxyphenyl)-4-[(4-morpholinyl)acetyl]piperazine; mp. 197.3° C.

reactant | 1-(2-chloroacetyl)-4-(4-hydroxyphenyl)piperazine | ClCC(=O)N1CCN(CC1)C1=CC=C(C=C1)O | C12H15ClN2O2
reactant | morpholine | N1CCOCC1 | C4H9NO
solvent | methanol | CO | CH4O
product | 1-(4-hydroxyphenyl)-4-[(4-morpholinyl)acetyl]piperazine | OC1=CC=C(C=C1)N1CCN(CC1)C(CN1CCOCC1)=O | C16H23N3O3
